US20010047105A1
Following the procedure described for Example 5, Step A, the anion derived from 5-[4-biphenyl-3-yl-3-(tert-butyl-dimethyl-silanyloxy)-butyl]-pyrrolidin-2-one (239.1 mg, 0.564 mmol) and NaHMDS (1M in THF, 0.67 mL, 0.67 mmol) was alkylated with 7-bromoheptanenitrile (118 mg, 0.620 mmol) at 70° C. for 24 h. Purification by medium pressure chromatography (CH2Cl2 to 1% MeOH in CH2Cl2 to 2% MeOH in CH2Cl2 to 4% MeOH in CH2Cl2) provided 7-{2-[4-biphenyl-3-yl-3-(tert-butyl-dimethyl-silanyloxy)-butyl]-5-oxo-pyrrolidin-1-yl}-heptanenitrile (187 mg). MS 533.3 (M+1).

reactant | 5-[4-biphenyl-3-yl-3-(tert-butyl-dimethyl-silanyloxy)-butyl]-pyrrolidin-2-one | 0.564 mmol, 239.1 mg | C1(=CC(=CC=C1)CC(CCC1CCC(N1)=O)O[Si](C)(C)C(C)(C)C)C1=CC=CC=C1 | C26H37NO2Si
reactant | NaHMDS | 0.67 mmol, 1M, 0.67 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 7-bromoheptanenitrile | 0.620 mmol, 118 mg | BrCCCCCCC#N | C7H12BrN
product | 7-{2-[4-biphenyl-3-yl-3-(tert-butyl-dimethyl-silanyloxy)-butyl]-5-oxo-pyrrolidin-1-yl}-heptanenitrile | 187 mg | C1(=CC(=CC=C1)CC(CCC1N(C(CC1)=O)CCCCCCC#N)O[Si](C)(C)C(C)(C)C)C1=CC=CC=C1 | C33H48N2O2Si
